US06313149B1
N(3)-(2,2-Dimethyl-propyl)-2,5-dimethyl-N(4)-phenyl-2H-pyrazole-3,4-diamine
To 300 mg (2.55 mmol) of N(3)-(2,2-dimethyl-propyl)-2,5-dimethyl-2H-pyrazole-3,4-diamine and 20 mL toluene was added 155 mg (0.51 mmol) P(o-tolyl)3, 343 mg (3.57 mmol) NaOt-Bu, 0.27 mL (400 mg, 2.55 mmol) of bromobenzene and 116 mg (0.128 mmol) of Pd2dba3, and the resulting purple mixture was heated to 100° C. After 5 h, the black reaction mixture was filtered through Celite and the filtrate was poured into 50 mL brine. This aqueous mixture was washed with 3×50 mL EtOAc, and the combined organics were dried over MgSO4, filtered and evaporated to a brown oil. Flash chromatography on silica gel, eluting with CH2Cl2/EtOAc (20/1 to 8/1 to 4/1) gave 402 mg (1.48 mmol, a 58% yield) of the title compound as a light yellow gum. 1H NMR (300 MHz, CDCl3): δ0.88 (s, 9H), 2.02 (s, 3H), 2.78 (brs, 2H), 2.90-3.12 (brs, 1H), 3.67 (s, 3H), 4.71 (brm, 1H), 6.55-6.60 (m, 2H), 6.72 (t, J=6.4 Hz, 1H), 7.15 (t, J=7.3 Hz, 2H), IR (KBr, cm−1): 3390m, 3262w, 3174w, 3058w, 2955m, 1602s, 1544m, 1516m, 1497s, 1476m, 1394m, 1316s, 991w, 749m, MS (ES) m/z (relative intensity): 273 (M++H, 100).

reactant | N(3)-(2,2-dimethyl-propyl)-2,5-dimethyl-2H-pyrazole-3,4-diamine | 2.55 mmol, 300 mg | CC(CNC=1N(N=C(C1N)C)C)(C)C | C10H20N4
reactant | P(o-tolyl)3 | 0.51 mmol, 155 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | NaOt-Bu | 3.57 mmol, 343 mg | CC(C)(C)[O-].[Na+]
reactant | bromobenzene | 2.55 mmol, 0.27 mL, 400 mg | BrC1=CC=CC=C1 | C6H5Br
catalyst | Pd2dba3 | 0.128 mmol, 116 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N(3)-(2,2-Dimethyl-propyl)-2,5-dimethyl-N(4)-phenyl-2H-pyrazole-3,4-diamine | 58% yield | CC(CNC=1N(N=C(C1NC1=CC=CC=C1)C)C)(C)C | C16H24N4
